US05650410
According to the same manner as that described in Example 34, ethyl 2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate was reacted with N-methylaniline to give ethyl 4-(3,4-dimethoxyphenyl)-2-(N-methyl-N-phenylaminomethyl)-6,7-dimethoxyquinoline-3-carboxylate. This compound was recrystallized from dichloromethane-hexane. Colorless prisms, mp. 194°-196° C.

reactant | ethyl 2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate | ClCC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC)OC)OC | C23H24ClNO6
reactant | N-methylaniline | CNC1=CC=CC=C1 | C7H9N
product | ethyl 4-(3,4-dimethoxyphenyl)-2-(N-methyl-N-phenylaminomethyl)-6,7-dimethoxyquinoline-3-carboxylate | COC=1C=C(C=CC1OC)C1=C(C(=NC2=CC(=C(C=C12)OC)OC)CN(C1=CC=CC=C1)C)C(=O)OCC | C30H32N2O6
